US06699879B1
N-Cyclopropylmethyl-2-ethyl-5-nitro-benzamide
2-Ethyl-5-nitrobenzoic acid (0.40 g), EDC.HCl (0.45 g), cyclopropylmethylamine (0.17 g) and hydroxybenzotriazole (0.04 g) were combined in dimethylformamide (10 ml) and stirred for 18 h. Solvent was removed at reduced pressure, the residue dissolved in dichloromethane and washed with 2N HCl and water. The organic phase was dried (MgSO4) and solvent removed at reduced pressure to give the title compound (0.4 g). 1H NMR (CDCl3) δ: 0.31 (2H, m), 0.59 (2H, m), 1.09 (1H, m), 1.28(3H, t, J=7.6Hz), 2.92 (2H, m), 3.33 (2H, m), 5.97 (1H, brs), 7.45 (1H, d, J=8.4 Hz), 8.20 (2H, m).

reactant | 2-Ethyl-5-nitrobenzoic acid | 0.40 g | C(C)C1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C9H9NO4
reactant | EDC.HCl | 0.45 g | CCN=C=NCCCN(C)C.Cl
reactant | cyclopropylmethylamine | 0.17 g | C1(CC1)CN | C4H9N
reactant | hydroxybenzotriazole | 0.04 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-Cyclopropylmethyl-2-ethyl-5-nitro-benzamide | 0.4 g | C1(CC1)CNC(C1=C(C=CC(=C1)[N+](=O)[O-])CC)=O | C13H16N2O3
